US05334716
4N-Hydrogen chloride in ethyl acetate (0.5 ml) was added to a solution of 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indolizin-3-yl]butyric acid (0.60 g) in ethyl acetate (5 ml). After the solution was left in a refrigerator for 16 hours, the resulting crystal was collected by filtration to give 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indolizin-3-yl]butyric acid hydrochloride as yellow powder (0.62 g).

reactant | Hydrogen chloride | Cl | ClH
reactant | 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indolizin-3-yl]butyric acid | 0.60 g | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)O)C=CC1 | C40H44N2O3
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indolizin-3-yl]butyric acid hydrochloride | 0.62 g | Cl.C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)O)C=CC1 | InChI=1S/C40H44N2O3.ClH/c1-27(2)23-29-14-18-31(19-15-29)39(32-20-16-30(17-21-32)24-28(3)4)41-34-10-7-9-33(25-34)40(45)36-26-35(11-8-13-38(43)44)42-22-6-5-12-37(36)42;/h5-7,9-10,12,14-22,25-28,39,41H,8,11,13,23-24H2,1-4H3,(H,43,44);1H
